US07342127B2
A mixture of compound 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-hydroxymethyl-6-isopropylphenol of Part 10A (85 mg, 0.18 mmol), Na2S2O4 (467 mg, 2.68 mmol) and EtOH (2 mL) was prepared in a microwave safe reaction vial. After irradiation for 5 minutes at 170° C. a saturated aqueous solution of NaHCO3 (5 mL) was added to the reaction mixture. The organic phase was removed in vacuo and the aqueous phase was extracted with EtOAc and the organic phase was dried over Na2SO4. Concentration in vacuo gave a residue that was purified on column (silica gel, gradient elution: n-heptane/EtOAc from 1:0 to 7:3) to give 18 mg (22%) of 4-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxymethyl-6-isopropylphenol as a light yellow foam.

reactant | 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-hydroxymethyl-6-isopropylphenol | BrC1=C(OC2=CC(=C(C(=C2)C(C)C)O)CO)C(=CC(=C1C)[N+](=O)[O-])Br | C17H17Br2NO5
reactant | Na2S2O4 | 2.68 mmol, 467 mg | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxymethyl-6-isopropylphenol | 18 mg, 22% | NC1=C(C(=C(OC2=CC(=C(C(=C2)C(C)C)O)CO)C(=C1)Br)Br)C | C17H19Br2NO3
